US07820356B2
Synthesis of Butyl Norbornene/Trimethoxysilyl Norbornene Copolymer (P31)
BuNB (10.97 g, 0.073 mol), Trimethoxysilyl Norbomene (TMSNB, CAS 7538-46-7) (12.95 g, 0.073 mol), triethyl silane (0.34 g, 2.91E-04 mol), ethanol (0.80 g, 1.75E-03 mol) and toluene (170.0 g) were combined in a 500 mL serum bottle and heated to 80° C. in an oil bath to form a solution. To this solution were injected Pd1446 (0.017 g, 1.16E-05 mol) and DANFABA (0.028 g, 3.49E-5 mol), each in the form of a concentrated solution in dichloromethane. After addition, the resulting mixture was maintained at 80° C. for 4 hours. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 15.5 g was obtained (65%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=48,000 and Mn=27,000. The composition of the copolymer was determined by 1H-NMR to be (47/53) BuNB/TMSNB copolymer. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5093 in TE mode and 1.5089 in TM mode at a wavelength of 633 nm. The dried copolymer was dissolved in sufficient toluene to result in a 30 wt % copolymer solution.

reactant | Trimethoxysilyl Norbomene | 0.073 mol, 12.95 g | CO[Si](OC)(OC)C12C=CC(CC1)C2 | C10H18O3Si
reactant | triethyl silane | 0.34 g | C(C)[SiH](CC)CC | C6H16Si
reactant | ethanol | 0.80 g | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 170.0 g | C1(=CC=CC=C1)C | C7H8
product | Butyl Norbornene Trimethoxysilyl Norbornene | C(CCC)C12C=CC(CC1)C2.CO[Si](OC)(OC)C12C=CC(CC1)C2 | InChI=1S/C11H18.C10H18O3Si/c1-2-3-6-11-7-4-10(9-11)5-8-11;1-11-14(12-2,13-3)10-6-4-9(8-10)5-7-10/h4,7,10H,2-3,5-6,8-9H2,1H3;4,6,9H,5,7-8H2,1-3H3
